US05516806
b) 2-[trans-4-(N-BOC-amino)-cyclohexyloxy]-1H-isoindole-1,3(2H)-dione
A solution of 12 ml (0.0718 mol) of diethyl azodicarboxylate (93%) in 80 ml of benzene is added dropwise to a mixture of 14.62 g (0.06791 mol) of cis-4-(N-BOC-amino)-cyclohexanol, 11.1 g (0.068 mol) of N-hydroxyphthalimide, 17.84 g (0.068 mol) of triphenylphosphine and 600 ml of benzene at 20°-30° C., while stirring. The reaction mixture is further stirred at room temperature for 15 hours and then evaporated in vacuo. The residue is purified by flash chromatography on silica gel of particle size 0.04-0.063 mm using methylene chloride. After evaporation of the product-containing fractions, the title compound is obtained as a crystalline residue, m.p. 207°-208° C.

reactant | diethyl azodicarboxylate | 0.0718 mol, 12 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | cis-4-(N-BOC-amino)-cyclohexanol | 0.06791 mol, 14.62 g | C(=O)(OC(C)(C)C)N[C@H]1CC[C@H](CC1)O | C11H21NO3
reactant | N-hydroxyphthalimide | 0.068 mol, 11.1 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.068 mol, 17.84 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | 2-[trans-4-(N-BOC-amino)-cyclohexyloxy]-1H-isoindole-1,3(2H)-dione | C(=O)(OC(C)(C)C)N[C@@H]1CC[C@H](CC1)ON1C(C2=CC=CC=C2C1=O)=O | C19H24N2O5
